US08496835B2
Method 5c: 4,4′-Difluorobiphenyl-3,3′,5,5′-tetrasulfonic Acid (K) (fw=510.44)
The same procedure as 5a is used with 9.51 g dry 4,4′-difluorobiphenyl (50 mmole, fw=190.19) and 106.8 g 30% fuming sulfuric acid (400 mmole, fw=80.06) which are stirred at 30° C. for 24 hour and then heated with stirring at 110° C. for another 72 hours. Crystallization was effected using 29.6 g distilled water and 185 mL propionitrile. Yield was 17.2 g (65%) of the tetrasulfonated product as white crystals of the monohydrate.

reactant | 4,4′-difluorobiphenyl | 9.51 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)F | C12H8F2
reactant | sulfuric acid | 106.8 g | S(O)(O)(=O)=O | H2O4S
product | 4,4′-Difluorobiphenyl-3,3′,5,5′-tetrasulfonic Acid | FC1=C(C=C(C=C1S(=O)(=O)O)C1=CC(=C(C(=C1)S(=O)(=O)O)F)S(=O)(=O)O)S(=O)(=O)O | C12H8F2O12S4
